US04122201
Acetonedicarboxylic acid (7.3 g., 0.05 m.) is added slowly to 32.1 ml. (32.5 g., 0.25 m.) of propionic anhydride with 1 ml. of concentrated sulfuric acid at 10°-20° C. The resulting mixture is heated on a steam bath at 90°-95° C. for 45 minutes and then poured into about 100 ml. of ice-water. The solid is filtered and recrystallized from methanol to yield 3,5-bis(propionyl)-4,6-dihydroxy-2H-pyran-2-one, m.p. 114°-115° C.

reactant | Acetonedicarboxylic acid | 7.3 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | propionic anhydride | 32.5 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,5-bis(propionyl)-4,6-dihydroxy-2H-pyran-2-one | C(CC)(=O)C=1C(OC(=C(C1O)C(CC)=O)O)=O | C11H12O6
